US08420816B2
STEP B: (R)-4-((3-methyl-1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
To an 8 mL scintillation vial equipped for stirring was added (R)-1-tert-butyl 3-methyl 4-((3-methyl-1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate (134 mg, 0.292 mmol). Aqueous NaOH (12N, 2 mL) and MeOH (1 mL) were added and the solution was stirred at 53° C. for 48 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 5-90%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound as a yellow oil.

reactant | (R)-1-tert-butyl 3-methyl 4-((3-methyl-1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | 0.292 mmol, 134 mg | CC([C@H](C(N1CCCC1)=O)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C)C | C24H34N4O5
reactant | NaOH | 12N, 2 mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | (R)-4-((3-methyl-1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | CC([C@H](C(N1CCCC1)=O)NCC1=C2C(=NC=C1)NC=C2C(=O)O)C | C18H24N4O3
